US07723369B2
5-{3-[2-[4-(6-Chloro-pyridazin-3-yl)-benzyl]-4-(2,4-dichloro-phenyl)-imidazol-1-yl]-phenyl}-1,1-dioxo-2-(2-trimethylsilanyl-ethoxymethyl)-[1,2,5]thiadiazolidin-3-one (76 mg, 0.1 mmol) was dissolved in 1 mL dry ethanol. Thiourea (76 mg, 1 mmol) was added and the mixture was refluxed under nitrogen over night. At completion, the reaction mixture was then diluted with water/EtOAc. The combined organic layer washed with water, and brine, dried over Na2SO4, filtered, and the filtrate was concentrated to give 5-(3-{4-(2,4-dichloro-phenyl)-2-[4-(6-mercapto-pyridazin-3-yl)-benzyl]-imidazol-1-yl}-phenyl)-1,1-dioxo-2-(2-trimethylsilanyl-ethoxymethyl)-[1,2,5]thiadiazolidin-3-one, which was then treated as described in general procedure K using 1-bromo-2-cyclohexylethane (79 μL, 0.5 mmol) to give 5-{3-[2-{4-[6-(2-cyclohexyl-ethylsulfanyl)-pyridazin-3-yl]-benzyl}-4-(2,4-dichloro-phenyl)-imidazol-1-yl]-phenyl}-1,1-dioxo-2-(2-trimethylsilanyl-ethoxymethyl)-[1,2,5]thiadiazolidin-3-one.

reactant | 5-{3-[2-[4-(6-Chloro-pyridazin-3-yl)-benzyl]-4-(2,4-dichloro-phenyl)-imidazol-1-yl]-phenyl}-1,1-dioxo-2-(2-trimethylsilanyl-ethoxymethyl)-[1,2,5]thiadiazolidin-3-one | 0.1 mmol, 76 mg | ClC1=CC=C(N=N1)C1=CC=C(CC=2N(C=C(N2)C2=C(C=C(C=C2)Cl)Cl)C=2C=C(C=CC2)N2CC(N(S2(=O)=O)COCC[Si](C)(C)C)=O)C=C1 | C34H33Cl3N6O4SSi
reactant | Thiourea | 1 mmol, 76 mg | NC(=S)N | CH4N2S
solvent | ethanol | 1 mL | C(C)O | C2H6O
solvent | water EtOAc | O.CCOC(=O)C
product | 5-(3-{4-(2,4-dichloro-phenyl)-2-[4-(6-mercapto-pyridazin-3-yl)-benzyl]-imidazol-1-yl}-phenyl)-1,1-dioxo-2-(2-trimethylsilanyl-ethoxymethyl)-[1,2,5]thiadiazolidin-3-one | ClC1=C(C=CC(=C1)Cl)C=1N=C(N(C1)C=1C=C(C=CC1)N1CC(N(S1(=O)=O)COCC[Si](C)(C)C)=O)CC1=CC=C(C=C1)C=1N=NC(=CC1)S | C34H34Cl2N6O4S2Si
